US06548719B1
To a 250 mL 3-necked round bottom flask operating under nitrogen purge, equipped with a water condenser (at about 15-20° C.), stirrer, and fitted with a dry ice trap (at about −78° C.), was added 100 mL aqueous potassium hydroxide (23 wt. %) solution and the crown ether, 18-crown-6, (0.1 g, 0.37 mmol) To this solution at about 20° C., was added CF3CHBrCF2Br (24.6 g, 84 mmol) drop-wise via an addition funnel over a period of about 35 minutes. The dehydrobrominated product, CF3CBr═CF2 (gas chromatograph retention time, 2.0 min), as formed, was continuously collected in the dry ice trap. After complete addition of CF3CHBrCF2Br, the reaction mixture was stirred for an additional 60 minutes. A total of 17.1 g (81 mmol) of CF3CBr═CF2 (96% yield), was collected in the dry ice trap. The structure was confirmed by NMR spectroscopy.

reactant | 18-crown-6 | 0.37 mmol, 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | CF3CHBrCF2Br | 84 mmol, 24.6 g | C(F)(F)(F)C(Br)C(F)(F)Br | C3HBr2F5
product | CF3CBr═CF2 | C(F)(F)(F)C(Br)=C(F)F | C3BrF5
